US06890916B2
2f, 7-Chloro-3-{1-[4-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)butan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride
from 7-chloro-3-(piperidin-4-yl)-1H-indole and 1-(4-bromobutan-1-yl)-3,4-dihydroquinolin-2(1H)-one. Mp 253-254° C. 1H NMR (DMSO-d6): 1.55-1.65 (m, 2H); 1.75-1.85 (m, 2H); 2.05-2.25 (m, 4H); 2.55 (t, 2H); 2.90 (t, 2H); 2.95-3.15 (m, 5H); 3.55 (d, 2H); 3.95 (t, 2H); 6.95-7.05 (m, 2H); 7.15-7.30 (m, 5H); 7.70 (d, 1H); 10.60 (broad s, 1H); 11.30 (s, 1H). MS m/z: 436 (MH+), 289.

reactant | 7-chloro-3-(piperidin-4-yl)-1H-indole | ClC=1C=CC=C2C(=CNC12)C1CCNCC1 | C13H15ClN2
reactant | 1-(4-bromobutan-1-yl)-3,4-dihydroquinolin-2(1H)-one | BrCCCCN1C(CCC2=CC=CC=C12)=O | C13H16BrNO
product | 7-Chloro-3-{1-[4-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)butan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride | Cl.ClC=1C=CC=C2C(=CNC12)C1CCN(CC1)CCCCN1C(CCC2=CC=CC=C12)=O | InChI=1S/C26H30ClN3O.ClH/c27-23-8-5-7-21-22(18-28-26(21)23)19-12-16-29(17-13-19)14-3-4-15-30-24-9-2-1-6-20(24)10-11-25(30)31;/h1-2,5-9,18-19,28H,3-4,10-17H2;1H
